US04010273
3-N-(3-Azabicyclo-[3.2.0]-[3.2.0]-heptano)-4-phenoxy-5-sulphamylbenzoic acid
6.2 g of 3-N-(3-azabicyclo-[3.2.0]-heptano)-4-phenoxy-5-sulphamylbenzoic acid methyl ester are suspended in 60 ml of 1 N NaOH and the suspension is heated on the waterbath until a clear solution is formed. The acid is then precipitated with 2 N HCl, while stirring well, and is recrystallised from glacial acetic acid.

reactant | 4-phenoxy-5-sulphamylbenzoic acid methyl ester | COC(C1=CC=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)=O | C14H13NO5S
solvent | NaOH | 1 N, 60 ml | [OH-].[Na+]
product | 4-phenoxy-5-sulphamylbenzoic acid | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1S(N)(=O)=O | C13H11NO5S
